US04010166
The mixture of 3.20 g of 7,7-diphenyl-hexahydro-1,4-oxazepine, 2.54 g of 4-chloro-4'-fluoro-butyrophenone, 3.35 g of anhydrous potassium carbonate and 0.21 g of sodium iodide is refluxed for 22 hours, while stirring. The suspension is cooled, filtered, the filtrate evaporated and the residue dissolved in acetone. The solution is acidified with ethereal hydrogen chloride, to yield the 4-[3-(4-fluorobenzoyl)-propyl]-7,7-diphenylhexahydro-1,4-oxazepine hydrochloride melting at 137°-140°.

reactant | 7,7-diphenyl-hexahydro-1,4-oxazepine | 3.20 g | C1(=CC=CC=C1)C1(CCNCCO1)C1=CC=CC=C1 | C17H19NO
reactant | 4-chloro-4'-fluoro-butyrophenone | 2.54 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | potassium carbonate | 3.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.21 g | [I-].[Na+]
product | 4-[3-(4-fluorobenzoyl)-propyl]-7,7-diphenylhexahydro-1,4-oxazepine hydrochloride | Cl.FC1=CC=C(C(=O)CCCN2CCOC(CC2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C27H28FNO2.ClH/c28-25-15-13-22(14-16-25)26(30)12-7-18-29-19-17-27(31-21-20-29,23-8-3-1-4-9-23)24-10-5-2-6-11-24;/h1-6,8-11,13-16H,7,12,17-21H2;1H
